US05744602
A solution containing N-(2-Nitrophenyl)-N'-phenyl-urea (5.76 g) and chloroacetyl chloride (40 mL) was refluxed under nitrogen for 30 min. After the excess chloroacetyl chloride was removed in vacuo, diethyl ether(50 mL) was added and the resulting solid was filtered and dried to yield N'-(2-chloroacetyl)-N-(2-nitrophenyl)-N'-phenyl-urea as a white solid.

reactant | N-(2-Nitrophenyl)-N'-phenyl-urea | 5.76 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(=O)NC1=CC=CC=C1 | C13H11N3O3
reactant | chloroacetyl chloride | 40 mL | ClCC(=O)Cl | C2H2Cl2O
product | N'-(2-chloroacetyl)-N-(2-nitrophenyl)-N'-phenyl-urea | ClCC(=O)N(C(NC1=C(C=CC=C1)[N+](=O)[O-])=O)C1=CC=CC=C1 | C15H12ClN3O4
